US08198269B2
(4) Synthesis of ethyl ((R)-2-methoxymethoxy-3-butenyloxy)acetate
Sodium hydride (2.5 g) was added to a solution of the compound obtained in Preparation Example 8-(3) (4.15 g) in 1-methyl-2-pyrrolidinone (60 mL) under ice-cooling. The reaction solution was stirred at the same temperature for 30 minutes. Ethyl bromoacetate (10.4 mL) was added dropwise to the reaction solution. The reaction solution was heated to room temperature and stirred at the same temperature for five hours. Saturated aqueous ammonium chloride and ethyl acetate were added to the reaction solution, and the organic layer was separated. The organic layer was washed with aqueous sodium chloride and then dried over anhydrous magnesium sulfate. The organic layer was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain the title compound (4.77 g).

reactant | Sodium hydride | 2.5 g | [H-].[Na+]
reactant | Ethyl bromoacetate | 10.4 mL | BrCC(=O)OCC | C4H7BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | 1-methyl-2-pyrrolidinone | 60 mL | CN1C(CCC1)=O | C5H9NO
product | ethyl ((R)-2-methoxymethoxy-3-butenyloxy)acetate | 4.77 g | COCO[C@@H](COCC(=O)OCC)C=C | C10H18O5
